US04129740
8.2 g (50 mmol) of 2-nitroso-benzoic acid methyl ester were dissolved in 50 ml of methylene chloride and 7.2 g (75 mmol) of methane solufonic acid added thereto at 0° C. Upon addition of the methane sulfonic acid, the green solution turned dark red. During the entire duration of the reaction the temperature of the reaction mixture did not exceed 10° C. After 1 hour (as described in detail in previous Examples), the solution was sprayed onto water under a vacuum and the methylene chloride removed at the same time. By means of filtration it was possible to obtain 3.6 g (44% of theoretical) of N-(2-carbomethoxyphenyl)-N-(3-carbomethoxy-4-nitrosophenyl)-hydroxylamine in the form of a beige powder (decomposition from 85° C. on), the identity of which was ascertained by means of elementary analysis, titration and spectra (NMR, UV, IR).

reactant | 2-nitroso-benzoic acid methyl ester | 50 mmol, 8.2 g | COC(C1=C(C=CC=C1)N=O)=O | C8H7NO3
reactant | methane | 75 mmol, 7.2 g | C | CH4
reactant | methane sulfonic acid | CS(=O)(=O)O | CH4O3S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(2-carbomethoxyphenyl)-N-(3-carbomethoxy-4-nitrosophenyl)-hydroxylamine | 3.6 g, 44% | C(=O)(OC)C1=C(C=CC=C1)N(O)C1=CC(=C(C=C1)N=O)C(=O)OC | C16H14N2O6
